US08492549B2
1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-(2-methoxyethyl)piperidine
A solution of 2-[1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidin-3-yl]ethanol (0.1 g, 0.36 mmol) in THF (5 ml) was added NaH (79.0 mg, 1.79 mmol), which was previously washed with heptane. The reaction mixture was stirred at 70° C. for 1 h followed by a dropwise addition of a solution of iodomethane (0.034 ml, 0.54 mmol) in THF (1 ml). Stirring was continued for 1 h. Water was slowly added and the reaction mixture was extracted with DCM (3×20 ml). The combined organic phases were dried (Na2SO4), filtered and the filtrate was evaporated to give the title compound, which was purified by column chromatography (DCM/MeOH, 90:10).

reactant | 2-[1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidin-3-yl]ethanol | 0.36 mmol, 0.1 g | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)CCO | C16H23NO3
reactant | NaH | 1.79 mmol, 79.0 mg | [H-].[Na+]
reactant | iodomethane | 0.54 mmol, 0.034 ml | IC | CH3I
reactant | Water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-(2-methoxyethyl)piperidine | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)CCOC | C17H25NO3
